US08049016B2
To a suspension of ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate (0.25 g, 0.98 mmol) and potassium carbonate (0.20 g, 1.47 mmol) in acetone (20 mL) was added 2-cyclopropylethyl 4-methylbenzenesulfonate (0.28 g, 1.18 mmol). The reaction mixture was heated to reflux for 24 hours, cooled to ambient temperature and filtered. The filtrate was concentrated in vacuo to afford ethyl 2-(1-(2-cyclopropylethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate in 63% yield (0.20 g): MS (ES+) m/z 323.3 (M+1).

reactant | ethyl 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | 0.98 mmol, 0.25 g | CC=1N=C(SC1C(=O)OCC)N1C=NNC1=O | C9H10N4O3S
reactant | potassium carbonate | 1.47 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-cyclopropylethyl 4-methylbenzenesulfonate | 1.18 mmol, 0.28 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC1CC1 | C12H16O3S
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | ethyl 2-(1-(2-cyclopropylethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate | 63% yield | C1(CC1)CCN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)OCC | C14H18N4O3S
